US05681954
3,4-Dimethoxyphenylcopper Acetylide
In 15 ml of aqueous ammonia was dissolved 0.39 g of copper iodide, and the solution was added to a solution of 0.33 g of 3,4-dimethoxyphenylacetylene in 20 ml of ethanol at room temperature. The mixture was stirred for 1 hour, filtered, washed five times with water, once with ethanol, and once with ethyl ether, and dried under reduced pressure at 40° C. to yield 110 mg of the title compound.

reactant | copper iodide | 0.39 g | [Cu](I)I
reactant | 3,4-dimethoxyphenylacetylene | 0.33 g | COC=1C=C(C=CC1OC)C#C | C10H10O2
solvent | ammonia | 15 ml | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3,4-Dimethoxyphenylcopper Acetylide | 110 mg | [C-]#[C-].COC=1C=C(C=CC1OC)[Cu+2] | InChI=1S/C8H9O2.C2.Cu/c1-9-7-5-3-4-6-8(7)10-2;1-2;/h3,5-6H,1-2H3;;/q;-2;+2
